### ISSUE TITLE
kernel hangs on ac_nf expression

### ISSUE THREAD

**Issue by tobiasgrosser** [leanprover/lean4#5699]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following test case hangs in the kernel

```lean
axiom foo {p : Prop} {x : BitVec 32} (h : (!x == x + 0#32) = true) : p

theorem add_eq_sub_not_sub_one (x : BitVec 32) (h : (!x == x + (1#32 + 4294967295#32)) = true) : False := by
  simp only [BitVec.reduceAdd] at h
  exact foo h -- this works

theorem add_eq_sub_not_sub_one' (x : BitVec 32) (h : (!x == x + 1#32 + 4294967295#32) = true) : False := by
  ac_nf0 at h
  simp only [BitVec.reduceAdd] at h
  exact foo h -- this hangs here
```

### Context

This issue arose when testing bv_decide with `ac_nf` enabled. 

### Steps to Reproduce

1. Copy into Lean
2. Wait for it to run
3. Observe yellow line next to `exact foo h` not disappearing 

**Expected behavior:** Proof should be confirmed by kernel

**Actual behavior:** Kernel is hanging

### Versions

"4.12.0, commit 225e08965d644715e8961cd205ffedf1cf7d24c2"

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Didn't look closely yet. This might have a similar cause as https://github.com/leanprover/lean4/issues/5384

**Comment by nomeata** [comment]
Fun fact: Enabling `set_option debug.skipKernelTC true` makes it go through (as expected), but then trying to paste the proof term into a `theorem`, to play around with it, makes the elaborator hit the recursion depth:

```lean
theorem add_eq_sub_not_sub_one'' : ∀ (x : BitVec 32), (!x == x + 1#32 + 4294967295#32) = true → False :=
fun x h =>
  foo
    (Eq.mp
      (congrArg (fun x_1 => (!x == x_1) = true)
        (Lean.Data.AC.Context.eq_of_norm
          { op := HAdd.hAdd, assoc := BitVec.instAssociativeHAdd, comm := some { down := BitVec.instCommutativeHAdd },
            idem := none,
            vars :=
              [{ value := x, neutral := none }, { value := 1#32, neutral := none },
                { value := 4294967295#32, neutral := none }],
            arbitrary := x }
          (((Lean.Data.AC.Expr.var 0).op (Lean.Data.AC.Expr.var 1)).op (Lean.Data.AC.Expr.var 2))
          ((Lean.Data.AC.Expr.var 0).op ((Lean.Data.AC.Expr.var 1).op (Lean.Data.AC.Expr.var 2))) (Eq.refl true)))
      h)
```

I'm fairly certain that it’s the same issue as #5384; like there, a strategically placed `id` can do wonders:
```

theorem add_eq_sub_not_sub_one'' : ∀ (x : BitVec 32), (!x == x + 1#32 + 4294967295#32) = true → False :=
fun x h =>
  foo
    (Eq.mp
      (congrArg (fun x_1 => (!x == x_1) = true)
        (@id (∀ (x y z : BitVec 32), x + y + z = x + (y + z))
        (fun (x y z : BitVec 32) =>
        (Lean.Data.AC.Context.eq_of_norm
          { op := HAdd.hAdd, assoc := BitVec.instAssociativeHAdd, comm := some { down := BitVec.instCommutativeHAdd },
            idem := none,
            vars :=
              [{ value := x, neutral := none }, { value := y, neutral := none },
                { value := z, neutral := none }],
            arbitrary := x }
          (((Lean.Data.AC.Expr.var 0).op (Lean.Data.AC.Expr.var 1)).op (Lean.Data.AC.Expr.var 2))
          ((Lean.Data.AC.Expr.var 0).op ((Lean.Data.AC.Expr.var 1).op (Lean.Data.AC.Expr.var 2))) (Eq.refl true))) x 1#32 4294967295#32))
      h)
```

**Comment by nomeata** [comment]
Indeed, and the fix seems to work (#5708).

**Comment by tobiasgrosser** [comment]
Wow, what a fast turnaround.

Best Tobias
